### PR TITLE
Fujisakis: proof of antidiag_mem_C

### PR DESCRIPTION
**Pull request by WilliamCoram**
A proof of antidiag_mem_C golfed as short as I could manage.
(Hopefully I am working from a better branch now)

### CODE REVIEW

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 1]
```diff
@@ -164,8 +166,25 @@ lemma C_compact : IsCompact (C K D) := by
 lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
     ∃ b ∈ Set.range (incl K D : Dˣ → D_𝔸ˣ),
     ∃ ν ∈ ringHaarChar_ker D_𝔸,
-    β = b * ν ∧ ((ν : D_𝔸), ((ν⁻¹ : D_𝔸ˣ) : D_𝔸)) ∈ C K D :=
-  sorry
+    β = b * ν ∧ ((ν : D_𝔸), ((ν⁻¹ : D_𝔸ˣ) : D_𝔸)) ∈ C K D := by
+  obtain ⟨x1, hx1, b1, ⟨b1, rfl⟩, eq1⟩ := X_meets_kernel K D hβ
+  obtain ⟨x2, hx2, b2, ⟨b2, rfl⟩, eq2⟩ := X_meets_kernel' K D hβ
+  obtain ⟨x1, rfl⟩ : IsUnit x1 := ⟨↑β⁻¹ * incl K D b1,
+    Eq.symm ((Units.eq_inv_mul_iff_mul_eq β).mpr eq1)⟩
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:173]: You don't *have* to golf everything to oblivion in FLT :-) That's just the mathlib culture. But given that you mentioned it, I'm assuming that the type of `((Units.eq_inv_mul_iff_mul_eq β).mpr eq1)` is `X = Y` i.e. `Eq X Y` which means that you can golf this line to ` ((Units.eq_inv_mul_iff_mul_eq β).mpr eq1).symm⟩`.

**Comment by kbuzzard** [comment]
This is fine, just not merging yet so you get a chance to read the comments. Don't worry about golfing if you don't want. The paper https://jwshii.github.io/OOPSLA25.pdf describes (on p20) this as a "bro culture" undercurrent in mathlib and I don't particularly want to encourage that in FLT. In fact here is my rule of thumb; if a proof is "this is trivial" on the board then feel free to golf it as much as you like. but if a proof has an idea in then in contrast to mathlib I would encourage you to add comments to the code explaining where the mathematical idea is and not worry about golfing too much, although I would not encourage `intro x, intro y` or `rw [h1], rw [h2]`.

**Comment by WilliamCoram** [comment]
> This is fine, just not merging yet so you get a chance to read the comments. Don't worry about golfing if you don't want. The paper https://jwshii.github.io/OOPSLA25.pdf describes (on p20) this as a "bro culture" undercurrent in mathlib and I don't particularly want to encourage that in FLT. In fact here is my rule of thumb; if a proof is "this is trivial" on the board then feel free to golf it as much as you like. but if a proof has an idea in then in contrast to mathlib I would encourage you to add comments to the code explaining where the mathematical idea is and not worry about golfing too much, although I would not encourage `intro x, intro y` or `rw [h1], rw [h2]`.

I'll keep that in mind. I will still golf sometimes as it will be good practice for mathlib. But I will also try and leave it semi-readable and add comments where I think necessary.

**Comment by kbuzzard** [comment]
Thanks!
